* C:\Users\janrh\OneDrive - University of the Philippines\Acads\3RD YEAR (22-23)\2ND SEM\CoE 197\Mini project\Final\circuits\vdivider.asc
V1 N001 0 10
R1 N001 vout 1k
R2 vout 0 2k
.tran 1m
.meas vout
.backanno
.end
